US06982274B2
3-(2-Fluorophenyl)-1H-5-indazolecarboxylic acid
A total of 1.6 g of methyl 3-(2-fluorophenyl)-1H-5-indazolecarboxylate was dissolved in 15 ml of a 1:1 solvent mixture of methanol and tetrahydrofuran, 2 ml of 5 N aqueous sodium hydroxide solution was added, followed by heating at 70° C. for 6 hours. After cooling to room temperature, the reaction mixture was added with diluted hydrochloric acid and was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 1.5 9 of the title compound as a colorless powder.

reactant | methyl 3-(2-fluorophenyl)-1H-5-indazolecarboxylate | 1.6 g | FC1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)C(=O)OC | C15H11FN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 5 N, 2 ml | [OH-].[Na+]
product | 3-(2-Fluorophenyl)-1H-5-indazolecarboxylic acid | FC1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)C(=O)O | C14H9FN2O2
